US04031099
b. 4-Hydroxy-6-methyl-5,6,7,8-tetrahydrocarbostyril
Refluxing a suspension of 3-carboethoxy-4-hydroxy-6-methyl-5,6,7,8-tetrahydrocarbostyril (20 g; 0.08 mole) with 2N hydrochloric acid (300 ml) over 48 hrs. afforded the decarboethoxylated product isolated as in Example 1 m.p. (AcOH) >365° C.

reactant | 3-carboethoxy-4-hydroxy-6-methyl-5,6,7,8-tetrahydrocarbostyril | 0.08 mole, 20 g | C(=O)(OCC)C=1C(NC=2CCC(CC2C1O)C)=O | C13H17NO4
reactant | hydrochloric acid | 2N, 300 ml | Cl | ClH
solvent | AcOH | CC(=O)O | C2H4O2
product | 4-Hydroxy-6-methyl-5,6,7,8-tetrahydrocarbostyril | OC1=CC(NC=2CCC(CC12)C)=O | C10H13NO2
